US05405979
3,3-(Ethylenedioxy)-11β-[4-(2-thienyl)phenyl]-5-estren-17-one
3.3 ml of a 1.6 molar solution of butyllithium in hexane is slowly instilled in a solution of 423 μl of thiophene in 8 ml of tetrahydrofuran at room temperature under protective gas. After 30 more minutes of stirring, 872 mg of dry zinc(II) chloride, dissolved in 5 ml of diethyl ether, is added to the reaction mixture and stirred for one hour at room temperature. The thus produced 2-thienylzinc chloride solution is instilled in a solution of 480 mg of 3,3-(ethylenedioxy)-11β-(4-trifluoromethylsulfonyloxyphenyl)-5-estren-17-one and 51 mg of tetrakistriphenylphosphinepalladium in 10 ml of tetrahydrofuran. The reaction mixture is stirred for eight hours under reflux, cooled to room temperature and mixed with saturated ammonium chloride solution. The aqueous phase is extracted three times with ethyl acetate. The organic phases are washed with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. Chromatography of the residue on silica gel with a mixture of ethyl acetate/hexane yields 380 mg of the title compound as white foam.

reactant | butyllithium | C(CCC)[Li]
reactant | thiophene | 423 μl | S1C=CC=C1 | C4H4S
reactant | 2-thienylzinc chloride | [Cl-].S1C(=CC=C1)[Zn+]
reactant | 3,3-(ethylenedioxy)-11β-(4-trifluoromethylsulfonyloxyphenyl)-5-estren-17-one | 480 mg | C1OC2(CC3=CC[C@H]4[C@@H]5CCC([C@@]5(C)C[C@@H]([C@@H]4[C@H]3CC2)C2=CC=C(C=C2)OS(=O)(=O)C(F)(F)F)=O)OC1 | C27H31F3O6S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | zinc(II) chloride | 872 mg | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakistriphenylphosphinepalladium | 51 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3,3-(Ethylenedioxy)-11β-[4-(2-thienyl)phenyl]-5-estren-17-one | 380 mg | C1OC2(CC3=CC[C@H]4[C@@H]5CCC([C@@]5(C)C[C@@H]([C@@H]4[C@H]3CC2)C2=CC=C(C=C2)C=2SC=CC2)=O)OC1 | C30H34O3S
